US06953806B2
In analogy to the method described in example 12.1, trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester was reacted with N-allyl-methyl-amine in N,N-dimethylacetamide at room temperature to yield trans-(2-{4-[3-(allyl-methyl-amino)-(E)-propenyl]-cyclohexyl}-ethyl)-methyl-carbamic acid 4-chloro-phenyl ester as light yellow viscous oil, MS: 405 (MH+, 1Cl).

reactant | trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CCl)=O | C19H25Cl2NO2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-(2-{4-[3-(allyl-methyl-amino)-(E)-propenyl]-cyclohexyl}-ethyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CN(C)CC=C)=O | C23H33ClN2O2
